US08530648B2
b) 2-((1H-indol-3-yl)methyl)-9-(benzo[d]thiazol-2-yl)-2,9-diazaspiro[5.5]undecan-1-one
To the solution of 2-((1H-indol-3-yl)methyl)-2,9-diazaspiro[5.5]undecan-1-one (60 mg, 0.20 mmol) and 2-bromobenzo[d]thiazole [2516-40-7] (56 mg, 0.26 mmol) in ethanol (0.7 ml) was added DIPEA (176 μl, 1.0 mmol) and DMAP (1.2 mg, 0.01 mmol). The mixture was heated at 160° C. for 1.25 h under microwave conditions. The solvent was evaporated and the residue was purified by flash chromatography (EtOAc/hexane 2:3) to yield 51 mg (56%) of the title compound as a pale yellow solid. [1H NMR (600 MHz, DMSO-d6) ♀ ppm 10.96 (br. s., 1H), 7.76 (d, J=7.9 Hz, 1H), 7.54 (d, J=8.1 Hz, 1H), 7.44 (d, J=7.9 Hz, 1H), 7.34 (d, J=8.1 Hz, 1H), 7.22-7.32 (m, 2H), 7.01-7.11 (m, 2H), 6.96 (t, J=7.3 Hz, 1H), 4.63 (s, 2H), 3.82-3.96 (m, 2H), 3.38-3.49 (m, 2H), 3.17 (t, J=5.9 Hz, 2H), 2.06-2.18 (m, 2H), 1.74-1.84 (m, 2H), 1.61-1.74 (m, 2H), 1.53 (d, J=13.7 Hz, 2H); LCMS RtC=2.37 min, [M+H]+=431.2].

reactant | 2-((1H-indol-3-yl)methyl)-2,9-diazaspiro[5.5]undecan-1-one | 0.20 mmol, 60 mg | N1C=C(C2=CC=CC=C12)CN1C(C2(CCC1)CCNCC2)=O | C18H23N3O
reactant | 2-bromobenzo[d]thiazole | 0.26 mmol, 56 mg | BrC=1SC2=C(N1)C=CC=C2 | C7H4BrNS
reactant | DIPEA | 1.0 mmol, 176 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 0.7 ml | C(C)O | C2H6O
catalyst | DMAP | 0.01 mmol, 1.2 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-((1H-indol-3-yl)methyl)-9-(benzo[d]thiazol-2-yl)-2,9-diazaspiro[5.5]undecan-1-one | 51 mg, 56% | N1C=C(C2=CC=CC=C12)CN1C(C2(CCC1)CCN(CC2)C=2SC1=C(N2)C=CC=C1)=O | C25H26N4OS
